US08426449B2
Step 2: [3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester
[3-(2-Dimethoxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester (0.479 g, 1.42 mmol) and hydrogen chloride (4N in 1,4-dioxane; 1.5 mL, 6.0 mmol) were combined in THF (4 mL) and stirred at 70° C. for 1 hour. Some starting material was still seen by analytical LCMS, so additional hydrogen chloride (4N in 1,4-dioxane; 0.5 mL) was added, and the reaction was stirred for another hour at 70° C. After cooling to room temperature, the mixture was worked up with EtOAc and H2O, and the combined organic layers were dried and concentrated to give the title compound.

reactant | [3-(2-Dimethoxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | 1.42 mmol, 0.479 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)C(OC)OC)=O | C19H19F3O5
reactant | hydrogen chloride | 6.0 mmol, 4N, 1.5 mL | Cl | ClH
reactant | hydrogen chloride | 4N, 0.5 mL | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | [3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C17H13F3O4
